US04952332
1 mol of 1,2-propanediol is stirred with 40% strength by weight aqueous glyoxal solution at 50° C. for 3 hours. Water is then distilled off at 70° C. and 100 mbar, leaving 125 g (93% of theory) of 2,3-dihydroxy-5-methyl-1,4-dioxane in the form of a clear, colorless oil which crystallizes on prolonged standing.

reactant | 1,2-propanediol | 1 mol | C(C(C)O)O | C3H8O2
reactant | glyoxal | C(=O)C=O | C2H2O2
product | 2,3-dihydroxy-5-methyl-1,4-dioxane | 125 g, 93% | OC1OCC(OC1O)C | C5H10O4
